US07329680B2
A solution of 4-hydroxyproline (7.54 g, 42 mmol) and triethylamine (14.7 mL, 105 mmol) in 50% aqueous acetone (50 mL) was cooled to 0° C. and treated with di-tert-butyl dicarbonate (10.1 g , 46.4 mmol). After the addition was complete, the reaction mixture was stirred for 16 h and concentration to yield 10.5 g crude 4-Hydroxy-N-tert-butoxycarbonyl-proline methyl ester as solid which can be used without further purification. A pure sample can be obtained by recrystalization with 50% ethyl acetate in heptane. 1H NMR (CDCl3), 4.52 (b, 1H), 4.41 (dd, J=6, 8 Hz, 1H), 3.73 (s, 3H), 3.64 (dd, J=1, 8 Hz, 1H), 3.50 (m, 1H), 2.28 (m, 1H), 2.08 (m, 2H), 1.46 (s, 9H).

reactant | 4-hydroxyproline | 42 mmol, 7.54 g | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | triethylamine | 105 mmol, 14.7 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 46.4 mmol, 10.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-Hydroxy-N-tert-butoxycarbonyl-proline methyl ester | 10.5 g | COC([C@H]1N(CC(C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
